US07179823B1
A mixture of 5-phenyl-2-pyridylmethyl acetate (3.68 g), a 1N aqueous sodium hydroxide solution (30 ml), tetrahydrofuran (30 ml) and methanol (300 ml) was stirred at room temperature for 3 hours, which was concentrated. The residue was dissolved in ethyl acetate, and then the solution was washed with water, then with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residual colorless crystals were collected by filtration to obtain 5-phenyl-2-pyridylmethanol (2.84 g, yield 95%). This was recrystallized from ethyl acetate-hexane. Melting point: 86–87° C.

reactant | 5-phenyl-2-pyridylmethyl acetate | 3.68 g | C(C)(=O)OCC1=NC=C(C=C1)C1=CC=CC=C1 | C14H13NO2
reactant | sodium hydroxide | 1N, 30 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | methanol | 300 ml | CO | CH4O
product | 5-phenyl-2-pyridylmethanol | 2.84 g, yield 95% | C1(=CC=CC=C1)C=1C=CC(=NC1)CO | C12H11NO
